US05319099
1-morpholinocarbonyl-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one (Ia-15)
To a solution of 3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one (241 mg, 0.8 mmole) dissolved into DMF (2.4 ml), sodium hydride (60% in mineral oil, 96 mg, 2.4 mmole) was added under ice-cooling under nitrogen atmosphere with stirring for 30 min. Morpholinophenyl carbamate (249 mg, 1.2 mmole) was added thereto and the mixture was allowed to stand at room temperature for 4 hours. The reactant was poured into ice-water, and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, and evaporated. The obtained residue was recrystallized from dichloromethane/ether, whereby 300 mg of the objective compound (Ia-15) was obtained in 90% yield.

reactant | 3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one | 0.8 mmole, 241 mg | C(C)(C)(C)C=1C=C(C=C2C(NCC2)=O)C=C(C1O)C(C)(C)C | C19H27NO2
reactant | sodium hydride | 2.4 mmole, 96 mg | [H-].[Na+]
reactant | Morpholinophenyl carbamate | 1.2 mmole, 249 mg | C(N)(OC1=C(C=CC=C1)N1CCOCC1)=O | C11H14N2O3
reactant | DMF | 2.4 ml | CN(C)C=O | C3H7NO
product | 1-morpholinocarbonyl-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one | 300 mg, 90% yield | O1CCN(CC1)C(=O)N1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C24H34N2O4
